vdr_parallel_network - fault test
I1 0 T DC 0.012
R1 T 0 5942.668489
R2 T 0 11834.742726
C3 T 0 6.74e-06
.op
.control
run
print v(T)
print @r1[i] @r2[i]
print @i1[i]
.endc
.end
